US08975443B2
1′,3′,5′-Triphenyl-5-(2,2,6,6-tetramethylphosphinan-1-yl)-1′H-1,4′-bipyrazole
A round bottom flask was charged with 2,2,6,6-tetramethyl-1-(1′,3′,5′-triphenyl-1′H-1,4′-bipyrazol-5-yl)phosphinan-4-one (1.25 g, 2.35 mmol, 1.0 equiv) and purged with nitrogen for 15 minutes. Then nitrogen-sparged diethylene glycol (12.3 mL, 129 mmol, 55 equiv) was added and the flask was equipped with a Claisen adapter and a Dean-Stark trap. The mixture was charged with hydrazine hydrate (1.07 mL, 11.7 mmol, 5 equiv, 55 wt % hydrazine) and potassium hydroxide (658 mg, 11.7 mmol, 5 equiv). The mixture was immersed in an oil bath at 125° C. under a nitrogen atmosphere. The temperature of the bath was increased to 210° C. over 1 hour and kept at that temperature for 7 hours. The reaction mixture was cooled to room temperature under a positive pressure of nitrogen, and then diluted with heptane (10 mL) and ethyl acetate (10 mL). The phases were partitioned, and the aqueous layer was collected. The aqueous layer was then washed with ethyl acetate (2×20 mL), and the combined organic fractions were washed once with aqueous saturated sodium chloride (50 mL), dried over sodium sulfate, filtered, and concentrated on a rotary evaporator. The crude concentrate was dissolved in a minimal amount of hot ethanol, and the solution was allowed to cool, effecting the crystallization of the product as a white solid. (826 mg, 95 area % by HPLC, 68% yield). 1H NMR (400 MHz, CDCl3) δ ppm 7.91 (d, J=1.9 Hz, 1H), 7.52-7.42 (m, 4H), 7.38-7.26 (m, 3H), 7.25-7.19 (m, 5H), 7.19-7.11 (m, 3H), 6.61 (d, J=1.8 Hz, 1H), 1.53 (dd, J=14.1, 12.0 Hz, 5H), 1.21 (ddd, J=24.9, 11.7, 5.7 Hz, 2H), 0.85 (dd, J=24.4, 18.8 Hz, 6H), 0.01 (d, J=11.6 Hz, 3H), −0.27 (d, J=11.5 Hz, 3H). 13C NMR (100 MHz, CDCl3) δ ppm 149.3 (d, J=2 Hz), 145.0, 143.2 (d, J=27 Hz), 141.0 (d, J=2 Hz), 139.8, 139.6 (d, J=2 Hz), 131.5, 129.5, 128.5, 128.3, 128.0, 127.9, 127.8, 127.3, 127.2, 125.1, 120.9, 113.0 (d, J=5 Hz), 37.1 (dd, J=8, 2 Hz), 29.9, 29.8, 29.3 (d, J=2 Hz), 29.2 (d, J=2 Hz), 29.1 (d, J=2 Hz), 28.8 (d, J=2 Hz), 28.8 (d, J=8 Hz), 20.2. 31P NMR (CDCl3, 202 MHz) δ ppm −17.0 (s). LRMS (ESI+) found for [M+H, C33H36N4P]+ 519.2.

reactant | 2,2,6,6-tetramethyl-1-(1′,3′,5′-triphenyl-1′H-1,4′-bipyrazol-5-yl)phosphinan-4-one | 2.35 mmol, 1.25 g, 1.0 equiv | CC1(P(C(CC(C1)=O)(C)C)C1=CC=NN1C=1C(=NN(C1C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1)C | C33H33N4OP
reactant | diethylene glycol | 129 mmol, 12.3 mL, 55 equiv | C(COCCO)O | C4H10O3
reactant | hydrazine hydrate | 11.7 mmol, 1.07 mL, 5 equiv | O.NN
reactant | potassium hydroxide | 11.7 mmol, 658 mg, 5 equiv | [OH-].[K+]
solvent | heptane | 10 mL | CCCCCCC | C7H16
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 1′,3′,5′-Triphenyl-5-(2,2,6,6-tetramethylphosphinan-1-yl)-1′H-1,4′-bipyrazole | 68% yield | C1(=CC=CC=C1)N1N=C(C(=C1C1=CC=CC=C1)N1N=CC=C1P1C(CCCC1(C)C)(C)C)C1=CC=CC=C1 | C33H35N4P
